US05939439
Step 1: 5-Chloro-1-(4-hydroxymethyl-phenyl)-1H-pyridin-2-one
5-Chloro-2-pyridinol (0.61 g, 4.7 mmol), 4-iodobenzyl-alcohol (1.00 g, 4.27 mmol), Copper (0.27 g, 4.27 mmol) and K2CO3 (0.65 g, 4.70 mmol) were heated at 180° C. for 16 hrs. The brown reaction mixture was cooled, diluted with EtOAc and washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc (2×) and the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed (silica gel, EtOAc as eluent) to afford the title compound as a white solid.

reactant | 5-Chloro-2-pyridinol | 4.7 mmol, 0.61 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | 4-iodobenzyl-alcohol | 4.27 mmol, 1.00 g | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | K2CO3 | 4.70 mmol, 0.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Copper | 4.27 mmol, 0.27 g | [Cu] | Cu
product | 5-Chloro-1-(4-hydroxymethyl-phenyl)-1H-pyridin-2-one | ClC=1C=CC(N(C1)C1=CC=C(C=C1)CO)=O | C12H10ClNO2
